US07893056B2
5-Fluoro-2-(fluoromethyl)-6-hydroxy-4(1H)-pyrimidinone
2-Fluoro-acetamidine hydrochloride salt (11.2 g, 100 mmol) and dimethyl fluoromalonate (15 g, 100 mmol) in anhydrous methanol (300 mL) were treated with solid NaOMe (16.2 g, 300 mmol) and heated to 50° C. with stirring. When LCMS showed formation of the desired product, the solvent was evaporated to dryness, and the residue was neutralized with concentrated HCl (20 mL). The white precipitate was collected by filtration to give 5-fluoro-2-(fluoromethyl)-6-hydroxy-4(1H)-pyrimidinone (100% yield). LCMS: (M+H)+: 163.1.

reactant | 2-Fluoro-acetamidine hydrochloride salt | 100 mmol, 11.2 g | Cl.FCC(=N)N
reactant | dimethyl fluoromalonate | 100 mmol, 15 g | FC(C(=O)OC)C(=O)OC | C5H7FO4
reactant | NaOMe | 300 mmol, 16.2 g | C[O-].[Na+]
solvent | methanol | 300 mL | CO | CH4O
product | 5-Fluoro-2-(fluoromethyl)-6-hydroxy-4(1H)-pyrimidinone | FC=1C(N=C(NC1O)CF)=O | C5H4F2N2O2
